US07192968B2
cis-N1,N2-Bis(benzyloxycarbonyl)-4-cyclohexene-1,2-diamine
4-Cyclohexene-1,2-diamine hydrochloride (4.0 g) was dissolved in a mixed solvent of water (20 ml) and acetonitrile (20 ml), and benzyl chloroformate (7.66 ml) and potassium carbonate (14.9 g) were added, and the mixture was stirred at room temperature for 3 days. Water was poured into the reaction mixture to conduct extraction with methylene chloride, and the resultant organic layer was washed with saturated saline. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane) to obtain the title compound (8.22 g) as a colorless solid.

reactant | 4-Cyclohexene-1,2-diamine hydrochloride | 4.0 g | Cl.C1(C(CC=CC1)N)N
reactant | potassium carbonate | 14.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 7.66 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 20 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | cis-N1,N2-Bis(benzyloxycarbonyl)-4-cyclohexene-1,2-diamine | 8.22 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC=CC1)NC(=O)OCC1=CC=CC=C1 | C22H24N2O4
